US07576215B2
2-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)TEREPHTHALONITRILE
The title compound was prepared from 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol and 2,5 dicyanobenzylbromide as in the procedure of Example 43. MS (ESI) m/z 520.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | 2,5 dicyanobenzylbromide | C(#N)C1=C(CBr)C=C(C=C1)C#N | C9H5BrN2
product | 2-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)TEREPHTHALONITRILE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=C(C#N)C=CC(=C2)C#N)C=CC1)C(F)(F)F | C32H20F3N3O
